datasets/10k_Mayr_OG.csv
SMILES Labelled
"Cl[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([N+:10]1=[CH:61][CH:62]=[C:63](Cl)[CH:72]=[CH:71]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>C[C:10]([C:11]#[N:12])([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](\C1CCCCC1)[C:72](=[O:73])[O:83]CC)[O-:12].C[N+:21](C)=[CH2:20]>>CC[O:61][C:11]([C:10](C1CCCCC1)([CH2:20][N:21](C)C)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CCC[NH2:10].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CCC[NH2+:10][CH:20]([C:21](=[C:22]([O-:23])[O:39]CC)[C:32](=[O:33])[O:34]CC)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CC[Si:11](CC)(CC)[H:10]>>C1COC2(CC[C:20]([H:10])([O-:21])CC2)O1.CC[Si+:11](CC)CC 10,11=10,20;20,21=21"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[O:12][C:11]2=[CH:10]CCC2)C=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]2CCC[C:11]2=[O+:12][Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[N:42]O[N:35]=[C:34]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[C:63]1=[C:62]([N:61]2[C:10]([C:20]([C:31]3=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]3)([C:41]3=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]3)=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:62](=[N:61][CH:10]=[C:11]=[N-:12])[C:63]2=[CH:64][CH:65]=[CH:66][CH:74]=[CH:75]2)C=C1.C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1>>C1=CC=C([S:32]([C-:21]([CH2:20][CH:10]([C:11]#[N:12])[N:61]=[C:62](C2=CC=CC=C2)[C:63]2=[CH:64][CH:65]=[CH:66][CH:74]=[CH:75]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C1C[CH:63]=[CH:62][CH:11]=[CH:10]1>>C1=CC=C([S:32]([CH-:21][CH2:20][CH:10]2CC[CH:63]=[CH:62][CH+:11]2)(=[O:33])=[O:34])C=C1 10,11=10,20;20,21=21"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH:11]=[CH2:10]>>CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH+:11][CH2:10][CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1 10,11=10,20;20,21=21"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62]>>CC[O:72][C:61]([C:10]([CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]12C3C4C5C1[Fe:42]45321678C2C1C6C7C28)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20
"C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:96])[CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][CH:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:96])[CH:93]=[CH:92]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[C:61]1=[N:10][CH:71]=[CH:72][NH:62]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N+:10]2=[C:61](C)[NH:62][CH:72]=[CH:71]2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
